US04206309
The same compound may also be obtained as follows: 0.3 g of H2SO4 is added dropwise, with vigorous stirring, to 400 ml of freshly distilled vinyl acetate, 0.002 g of Cu resinate and 0.96 g of mercury acetate, at -25° C., in a 1 liter round-bottomed flask. 41.4 g of 3-hydroxyethyl-5,5-dimethyl-hydantoin are then added, with brief stirring, under conditions such that the temperature in the flask does not rise above -20°. The resulting dispersion is kept at a temperature between -20° C. and -30° C., with slow stirring, and after 16 hours the undissolved alcohol (5.2 g) is filtered off, the solution is poured into ice water which contains sufficient sodium carbonate that the pH value resulting after addition of the solution is 8 or above, and finally the organic phase is separated from the aqueous phase, washed twice with water, dried over sodium sulphate and concentrated on a rotary evaporator. 27.4 g (= 57.5% of theory) of 3-vinyloxyethyl-5,5-dimethyl-hydantoin are obtained.

reactant | H2SO4 | 0.3 g | OS(=O)(=O)O | H2O4S
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | 3-hydroxyethyl-5,5-dimethyl-hydantoin | 41.4 g | OCCN1C(NC(C1=O)(C)C)=O | C7H12N2O3
catalyst | mercury acetate | 0.96 g | C(C)(=O)[O-].[Hg+]
product | 3-vinyloxyethyl-5,5-dimethyl-hydantoin | 27.4 g, 57.5% | C(=C)OCCN1C(NC(C1=O)(C)C)=O | C9H14N2O3
